US04005217
N-(4-methoxycarbonylamino-2-nitrophenyl)-2-dimethylaminoacetamide (25.3 g), platinum oxide (0.4 g) and methanol (250 ml) were shaken together in an atmosphere of hydrogen at atmospheric pressure and laboratory temperature until the uptake of hydrogen was complete. Six litres of hydrogen were absorbed. The mixture was filtered and the ethanol evaporated. The residual solid was recrystallised from isopropanol to give N-(2-amino-4-methoxycarbonylaminophenyl)-2-dimethylaminoacetamide (15.7 g), m.p. 140°-142° C.

reactant | N-(4-methoxycarbonylamino-2-nitrophenyl)-2-dimethylaminoacetamide | 25.3 g | COC(=O)NC1=CC(=C(C=C1)NC(CN(C)C)=O)[N+](=O)[O-] | C12H16N4O5
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.4 g | [Pt]=O
solvent | methanol | 250 ml | CO | CH4O
product | N-(2-amino-4-methoxycarbonylaminophenyl)-2-dimethylaminoacetamide | 15.7 g | NC1=C(C=CC(=C1)NC(=O)OC)NC(CN(C)C)=O | C12H18N4O3
